US04745224
Preparation of triisoamylphosphine oxide
4.1 g (15 mmol) of triisoamylphosphine sulfide in 70 ml of chlorobenzene (b.p.=132° C.) are combined with 34.7 g (0.18 mol) of p-chlorobenzenesulfonic acid and then heated for 8 hours at reflux. After cooling to room temperature, the reaction mixture is extracted several times with 80 ml portions of ice water and then the chlorobenzene solution is washed with sodium bicarbonate solution. The solution is dried over sodium sulfate and the chlorobenzene is removed in vacuum. Yield: 3 g of solid identified by mass spectroscopy as triisoamylphosphine oxide.

reactant | triisoamylphosphine sulfide | 15 mmol, 4.1 g | C(CC(C)C)P(CCC(C)C)(CCC(C)C)=S | C15H33PS
reactant | p-chlorobenzenesulfonic acid | 0.18 mol, 34.7 g | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
solvent | chlorobenzene | 70 ml | ClC1=CC=CC=C1 | C6H5Cl
product | triisoamylphosphine oxide | C(CC(C)C)P(CCC(C)C)(CCC(C)C)=O | C15H33OP
